US05382688
Aluminum chloride 101.22 g and nitrobenzene 200 ml were mixed, the mixture was poured and dissolved in para-nitrobenzoyl chloride 57.10 g on ice cooling. Then, a solution of 1,1-diphenyl-4-butylcyclohexane 30.0 g in nitrobenzene 50 ml was added dropwise for 30 minutes. 30 minutes after adding, the ice bath was removed and the mixture was slowly heated to 67° C. for four hours in a mantle heater. The finish of the reaction was confirmed by liquid chromatography, and then the reaction solution was poured into ice 1.5 liters to extract with chloroform 1.0 liter. The solution was washed with a 6N-HCl solution, an aqueous solution of sodium bicarbonate, an aqueous solution of sodium chloride and water. After chloroform was removed with a rotary evaporator, nitrobenzene was removed by steam distillation. The residue was dissolved in toluene, and the solution was purified with a silica gel column to obtain 1,1-bis[4-(4-nitrobenzoyl)phenyl]-4-butylcyclohexane 45.40 g.

reactant | Aluminum chloride | 101.22 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,1-diphenyl-4-butylcyclohexane | 30.0 g | C1(=CC=CC=C1)C1(CCC(CC1)CCCC)C1=CC=CC=C1 | C22H28
reactant | para-nitrobenzoyl chloride | 57.10 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | nitrobenzene | 50 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 200 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1,1-bis[4-(4-nitrobenzoyl)phenyl]-4-butylcyclohexane | 45.40 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)C2(CCC(CC2)CCCC)C2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C36H34N2O6
